US07074819B2
Step 3) Synthesis of (3RS,4RS)-4-(4-hydroxybutyl)-7-methoxymethoxy-3-(4-methoxymethoxyphenyl)-3-methylchroman
(3RS,4RS)-4-[4-(t-butyl dimethylsilyloxy)-1-butyl 3-(7-methoxymethoxy-3-(4-(methoxymethoxy)phenyl)-3-methylchroman (680 mg, 1.28 mmol) was dissolved in tetrahydrofuran (10 ml), and cooled to 0° C. To this solution was added tetrabutylammonium fluoride (2.6 ml, 2.56 mmol), and the reaction mixture was stirred at room temperature for 6 hours The solvent was removed by evaporation under vacuum, and the residue was dissolved in ethyl acetate, which was washed with water. The organic layer was separated, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The product was purified by column chromatography on silica gel, eluting with 30% ethyl acetate in n-hexane to afford 487 mg of the title compound as a colorless oil. (yield: 92.4%)

reactant | 7-methoxymethoxy-3-(4-(methoxymethoxy)phenyl)-3-methylchroman | 1.28 mmol, 680 mg | COCOC1=CC=C2CC(COC2=C1)(C)C1=CC=C(C=C1)OCOC | C20H24O5
reactant | tetrabutylammonium fluoride | 2.56 mmol, 2.6 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | (3RS,4RS)-4-(4-hydroxybutyl)-7-methoxymethoxy-3-(4-methoxymethoxyphenyl)-3-methylchroman | 487 mg, yield: 92.4% | OCCCCC1C(COC2=CC(=CC=C12)OCOC)(C)C1=CC=C(C=C1)OCOC | C24H32O6
